US03998834
10.4 parts of 4-(phenylamino)-1-(2-phenylethyl)-4-piperidinecarboxylic acid, sodium salt are dissolved in 75 parts of hexamethylphosphoric triamide while heating to 110° C. After cooling to 20° C, 3.4 parts of (chloromethyl)benzene are added dropwise. Upon completion, stirring is continued for 18 hours at room temperature. The reaction mixture is poured onto 300 parts of water and the product is extracted with methylbenzene. The extract is washed with water, dried, filtered and evaporated. The residue is crystallized from 2,2'-oxybispropane, yielding phenylmethyl 4-(phenylamino)-1-(2-phenylethyl)-4-piperidinecarboxylate; mp. 76.7° C.

reactant | 4-(phenylamino)-1-(2-phenylethyl)-4-piperidinecarboxylic acid | C1(=CC=CC=C1)NC1(CCN(CC1)CCC1=CC=CC=C1)C(=O)O | C20H24N2O2
reactant | sodium | [Na] | Na
reactant | (chloromethyl)benzene | ClCC1=CC=CC=C1 | C7H7Cl
reactant | water | O | H2O
solvent | hexamethylphosphoric triamide | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | phenylmethyl 4-(phenylamino)-1-(2-phenylethyl)-4-piperidinecarboxylate | C1(=CC=CC=C1)NC1(CCN(CC1)CCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C27H30N2O2
